US06346527B1
A solution of p-toluenesulfonic acid monohydrate (109 mg) and ethyl 5-hydroxy-9-methylthio-2,3,4,5-tetrahydro-1-benzoxepin-4-carboxylate (cis and trans mixture, 1.62 g) in toluene (32 ml) was heated to reflux for 1.5 hours. The reaction mixture was diluted with ethyl acetate, washed successively with saturated aqueous sodium hydrogen carbonate and brine, dried over magnesium sulfate, and evaporated in vacuo to give 1.60 g of crude product, which was purified by column chromatography on silica gel using a mixture of n-hexane and ethyl acetate (30:1) to afford ethyl 2,3-dihydro-9-methylthio-1-benzoxepin-4-carboxylate (1.30 g, colorless needles).

reactant | p-toluenesulfonic acid monohydrate | 109 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl 5-hydroxy-9-methylthio-2,3,4,5-tetrahydro-1-benzoxepin-4-carboxylate | 1.62 g | OC1C(CCOC2=C1C=CC=C2SC)C(=O)OCC | C14H18O4S
solvent | toluene | 32 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2,3-dihydro-9-methylthio-1-benzoxepin-4-carboxylate | 1.30 g | CSC1=CC=CC=2C=C(CCOC21)C(=O)OCC | C14H16O3S
